US07858796B2
(75) 5-(4-fluorophenyl)-3-(1-{[3-(1-pyrrolidinyl)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide
Following the general procedure for aminosulfonamide formation outlined in example 2, 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-(4-fluorophenyl)-1H-indole-7-carboxamide (0.059 mmol) and pyrrolidine (0.025 mL, 0.295 mmol) were allowed to react in the presence of K2CO3 (37 mg, 0.118 mmol) and NaI (Cat. 2 mg). The resulting residue was purified by reverse phase HPLC eluting with 10% B to 80% B, where A=H2O (0.1% trifluoroacetic acid) and B=CH3CN (0.1% trifluoroacetic acid) to give the title compound (6.9 mg, 23%).

reactant | aminosulfonamide | NS(=O)(=O)N | H4N2O2S
reactant | 3-{1-[(3-chloropropyl)sulfonyl]-4-piperidinyl}-5-(4-fluorophenyl)-1H-indole-7-carboxamide | 0.059 mmol | ClCCCS(=O)(=O)N1CCC(CC1)C1=CNC2=C(C=C(C=C12)C1=CC=C(C=C1)F)C(=O)N | C23H25ClFN3O3S
reactant | pyrrolidine | 0.295 mmol, 0.025 mL | N1CCCC1 | C4H9N
reactant | K2CO3 | 0.118 mmol, 37 mg | C(=O)([O-])[O-].[K+].[K+]
reactant | NaI | 2 mg | [Na+].[I-]
product | 5-(4-fluorophenyl)-3-(1-{[3-(1-pyrrolidinyl)propyl]sulfonyl}-4-piperidinyl)-1H-indole-7-carboxamide | 6.9 mg, 23% | FC1=CC=C(C=C1)C=1C=C2C(=CNC2=C(C1)C(=O)N)C1CCN(CC1)S(=O)(=O)CCCN1CCCC1 | C27H33FN4O3S
